US05047420
50 ml (0.56 mole) of methyl disulfide in 400 ml of 2.4-lutidine was added 46 g (0.72 mole) of copper. The mixture was heated at 140° for 3 hours. The solution was cooled to room temperature and 74.90 g (0.56 mole) of 3-bromo-5-methoxy-4-propoxybenzaldehyde was then added. The mixture was refluxed for 16 hours at 175° C. The solution was filtered and the filtrate was concentrated to dryness. The product was purified by flash column chromatography first then recrystallized from hexane to give 17.01 g (26% yield) of 3-methoxy-5-methylthio-4-propoxybenzaldehyde as a white solid. m.p. 64°-66° C.

reactant | methyl disulfide | 0.56 mole, 50 ml | CSSC | C2H6S2
reactant | 3-bromo-5-methoxy-4-propoxybenzaldehyde | 0.56 mole, 74.90 g | BrC=1C=C(C=O)C=C(C1OCCC)OC | C11H13BrO3
solvent | 2.4-lutidine | 400 ml | N1=C(C=C(C=C1)C)C | C7H9N
catalyst | copper | 0.72 mole, 46 g | [Cu] | Cu
product | 3-methoxy-5-methylthio-4-propoxybenzaldehyde | 17.01 g, 26% yield | COC=1C=C(C=O)C=C(C1OCCC)SC | C12H16O3S
